US05100891
Aluminum chloride (8.5 g) was suspended in CH2Cl2 (20 ml) at 0° C., chloroacetyl chloride (7.2 g) was slowly added and the mixture was stirred for 5 minutes. This mixture was added dropwise to a stirred solution of 1,4-dihydro-4-methyl-cyclopent[b]indol-3(2H)-one (6.0 g) in 100 ml CH2Cl2 at 0° C. The mixture was stirred at 0° C. for 45 minutes and thereafter an additional equivalent of preformed solution of aluminum chloride and chloroacetyl chloride in methylene chloride was introduced in a dropwise manner. After 30 minutes the reaction mixture was slowly poured into a stirred ice/water mixture. The layers were separated and the CH2Cl2 layer was washed with NaHCO3, dried (Na2SO4) and concentrated to an oil. Purification by flash chromatography on silica gel eluting with hexane/acetone provided 7-chloroacetyl-1,4-dihydro-4-methyl-cyclopent[b]indol-3(2H)-one (4.5 g).

reactant | Aluminum chloride | 8.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 7.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 1,4-dihydro-4-methyl-cyclopent[b]indol-3(2H)-one | 6.0 g | CN1C2=C(C=3C=CC=CC13)CCC2=O | C12H11NO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-chloroacetyl-1,4-dihydro-4-methyl-cyclopent[b]indol-3(2H)-one | 4.5 g | ClCC(=O)C1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C14H12ClNO2
